US08053438B2
STEP 1: 4-(3-CHLOROPYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-CARBONITRILE
To a solution of 2,3-dichloropyrazine (1.219 g, 8.18 mmol) and tetrahydro-2H-pyran-4-carbonitrile (1 g, 9.00 mmol) in Toluene (16.36 mL) at room temperature was added LiHMDS (18.00 mL, 18.00 mmol) dropwise. The reaction mixture was stirred overnight at room temperature. Reaction was quenched with saturated NH4Cl and extracted with EtOAc. Two purifications with Biotage (0-10% MeOH/DCM & 0-100% EtOAc/Hexane) were conducted to isolate product.

reactant | 2,3-dichloropyrazine | 8.18 mmol, 1.219 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | tetrahydro-2H-pyran-4-carbonitrile | 9.00 mmol, 1 g | O1CCC(CC1)C#N | C6H9NO
reactant | LiHMDS | 18.00 mmol, 18.00 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | Toluene | 16.36 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-CHLOROPYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-CARBONITRILE | ClC=1C(=NC=CN1)C1(CCOCC1)C#N | C10H10ClN3O
